US05206266
Methyl α-[2-(2-ethoxyiminomethylphenoxymethyl)phenyl]-β-methoxyacrylate
6.9 g (42 mmol) of 2-hydroxybenzaldehyde O-ethyloxime and 10.0 g (35 mmol) of methyl α-(2-bromomethylphenyl)-β-methoxyacrylate are dissolved in 100 ml of dimethylformamide, and 7.3 g (53 mmol) of potassium carbonate are added. The mixture is stirred at room temperature for 48 hours and then concentrated, and the residue is taken up in methylene chloride. The organic phase is washed with water, dried over MgSO4 and concentrated. The resulting oil is purified by chromatography on silica gel (cyclohexane/ethyl acetate). 8.4 g (65% of theory) of the title compound are obtained in the form of colorless crystals (melting point 86°-88° C., compound no. 23).

reactant | 2-hydroxybenzaldehyde O-ethyloxime | 42 mmol, 6.9 g | C(C)ON=CC1=C(C=CC=C1)O | C9H11NO2
reactant | methyl α-(2-bromomethylphenyl)-β-methoxyacrylate | 35 mmol, 10.0 g | BrCC1=C(C=CC=C1)C(C(=O)OC)=COC | C12H13BrO3
reactant | potassium carbonate | 53 mmol, 7.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Methyl α-[2-(2-ethoxyiminomethylphenoxymethyl)phenyl]-β-methoxyacrylate | C(C)ON=CC1=C(OCC2=C(C=CC=C2)C(C(=O)OC)=COC)C=CC=C1 | C21H23NO5
